US09145409B2
Step 3: Preparation of 3-(Amino(phenyl)methyl)phenol (I6c)
3-Hydroxyphenyl)(phenyl)methanone (400 g, 2 mol) was dissolved in methanol (4 L). Hydroxylamine hydrochloride (168 g, 2.4 mol) and sodium acetate (331 g, 4 mol) were added to the resulting solution. The mixture was heated at reflux for 18 hours. After cooling to RT solvent was evaporated at reduced pressure, then water (3 L) was added to the residue. The product was extracted with ethyl acetate (3×3 L). The combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate, brine, dried (sodium sulfate), filtered and the solvent evaporated at reduced pressure. The crude residue (1085 g) was used in the next step without purification. The crude oxime, 362 g, (287 g, 1.3 mol of pure oxime based on analysis) was dissolved in ethanol (860 mL) and 25% aqueous ammonia (3000 mL). To this mixture ammonium acetate (52 g, 0.7 mol) was added followed by portion wise addition of zinc powder (440 g, 6.7 mol) to maintain an internal not exceeding 40° C. The mixture was stirred without heating for 18 hours then filtered through a pad of celite. The filter cake was washed with ethyl acetate. The filtrate was collected and the formed layers were separated. The aqueous layer was extracted with ethyl acetate (5×5 L). The combined organic extracts layers were washed with brine (×2) and the solvent was removed in vacuo. The product was dried in vacuo (35° C., 18 hours) to yield the product.

reactant | (phenyl)methanone | 2 mol, 400 g | C1(=CC=CC=C1)C=O | C7H6O
reactant | Hydroxylamine hydrochloride | 2.4 mol, 168 g | Cl.NO
reactant | sodium acetate | 4 mol, 331 g | C(C)(=O)[O-].[Na+]
reactant | ammonium acetate | 0.7 mol, 52 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | 860 mL | C(C)O | C2H6O
solvent | methanol | 4 L | CO | CH4O
solvent | ammonia | 3000 mL | N | H3N
catalyst | zinc | 6.7 mol, 440 g | [Zn] | Zn
product | 3-(Amino(phenyl)methyl)phenol | NC(C=1C=C(C=CC1)O)C1=CC=CC=C1 | C13H13NO
